US07842686B2
2-Ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one
To a solution of 2-bromobutanoic acid (11 mmol, 2145 mg) in DMF (10 ml) was added EDC (12 mmol, 2.3 g) and HOBt (5 mmol, 675 mg) followed by the addition of 2-aminophenol (10 mmol, 1091 mg). The reaction mixture was stirred at room temperature for 2 h, diluted with water and extracted with ethyl acetate. The organic phase was washed with water, brine, dried over Na2SO4 and concentrated under reduced pressure. To the crude product in DMF (5 ml) was added K2CO3 (1.6 g) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with 1N HCl, Sat. NaHCO3, dried over Na2SO4 and evaporated to dryness. Purification by column chromatography gave the desired product as a white solid. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=178; tR=2.36.

reactant | 2-bromobutanoic acid | 11 mmol, 2145 mg | BrC(C(=O)O)CC | C4H7BrO2
reactant | EDC | 12 mmol, 2.3 g
reactant | HOBt | 5 mmol, 675 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-aminophenol | 10 mmol, 1091 mg | NC1=C(C=CC=C1)O | C6H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Ethyl-2H-benzo[b][1,4]oxazin-3(4H)-one | C(C)C1C(NC2=C(O1)C=CC=C2)=O | C10H11NO2
